US05254718
2-Chloroethyl 2-hydroxy-3-phenylpropionate was prepared from (S)-2-hydroxy-3-phenylpropionic acid and excess 2-chloroethanol essentially by the method described in Step 1 of Example 1; however, the distillate solidified after standing at 4° C.: b.p. 120° C./0.35 mm Hg; 1H NMR δ 2.86 (bs, 1H), δ 2.98 (dd, 1H, J=6.7 Hz and 14.0 Hz) δ 3.13 (dd, 1H, J=4.6 Hz and 14.0 Hz), δ 3.63 (t, 2H, J=5.6 Hz), δ 4.35 (m, 2H), δ 4.48 (dd, 1H, J=4.7 Hz and 6.6 Hz), δ 7.2-7.3 (5H) 13C NMR 40.5, 41.0, 64.8, 71.3, 126.8, 128.3, 129.4, 136.2, 173.6 ppm; HRMS calcd for C10H9ClO3Tms (M--CH3) 285.0714, obsd 285.0756.

reactant | (S)-2-hydroxy-3-phenylpropionic acid | O[C@H](C(=O)O)CC1=CC=CC=C1 | C9H10O3
reactant | 2-chloroethanol | ClCCO | C2H5ClO
product | 2-Chloroethyl 2-hydroxy-3-phenylpropionate | OC(C(=O)OCCCl)CC1=CC=CC=C1 | C11H13ClO3
